US06426345B1
To a mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (150 mg) and triethylamine (0.16 ml) in dichloromethane (3 ml) was added 3-[(E)-3-pyridyl]acryloyl chloridehydrochloride (140 mg). The mixture was stirred at room temperature for 30 minutes, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was crystallized from methanol to give 2-benzyl-4-[3-[(E)-3-(3-pyridyl)acryloylamino]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (138 mg).

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 150 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-benzyl-4-[3-[(E)-3-(3-pyridyl)acryloylamino]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 138 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(\C=C\C=1C=NC=CC1)=O)N=CC=C2 | C28H21N5O2
